US07344702B2
Synthesis of 4-(3-hydroxypropoxy)-benzoic acid methyl ester
To a 250 mL flask was added 3-bromo-1-propanol (4.17 g, 0.03 mol), anhydrous dimethylformamide (40 mL), methyl-4-hydroxybenzoate (3.0 g, 0.02 mol) and potassium carbonate (4.15 g, 0.03 mol). The flask was placed in a 50° C. oil bath and stirred for 12 hours. After cooling the reaction was diluted with ethyl acetate, transferred to separatory funnel, washed with aqueous 0.1 N hydrochloric acid, water then brine. The organic layer was dried with magnesium sulfate, filtered, and concentrated under reduced pressure to give 5.14 g of crude oil. Column chromatography [silica gel; eluent hexanes-ethyl acetate (1.68:1)] provided the desired product (1.25 g, 30%) as a white powder. 1H (CDCl3) δ(ppm): 2.04-2.08 (m, 2H); 3.86-3.88 (m, 5H); 4.17 (t, 2H); 6.91 (d, 2H); 7.98 (d, 2H); 13C (CDCl3) δ(ppm): 31.89, 51.81, 59.88, 65.50, 114.06, 122.67, 131.57, 162.60, 166.84.

reactant | 3-bromo-1-propanol | 0.03 mol, 4.17 g | BrCCCO | C3H7BrO
reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | methyl-4-hydroxybenzoate | 0.02 mol, 3.0 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | potassium carbonate | 0.03 mol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-hydroxypropoxy)-benzoic acid methyl ester | 1.25 g, 30% | COC(C1=CC=C(C=C1)OCCCO)=O | C11H14O4
